US07417066B2
(+/−)-5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1-benzothiophene-2-carboxylic acid-(2-hydroxy-1-methylethyl)amide
According to Step 1, after reaction of 5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1-benzothiophene-2-carboxylic acid (155 mg, 0.33 mmol) with 2-amino-1-propanol (0.027 mL, 0.35 mmol) followed by chromatographic purification (silica gel, dichloromethane/methanol (0-10% methanol)) and recrystallization from ethyl acetate/hexane, the desired compound is obtained at 29% yield (51 mg).

reactant | 5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1-benzothiophene-2-carboxylic acid | 0.33 mmol, 155 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=CC2=C(C(=C(S2)C(=O)O)C2=CC=CC=C2)C1 | C25H23NO4S2
reactant | 2-amino-1-propanol | 0.35 mmol, 0.027 mL | NC(CO)C | C3H9NO
product | (+/−)-5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1-benzothiophene-2-carboxylic acid-(2-hydroxy-1-methylethyl)amide | 29% yield | OCC(C)NC(=O)C=1SC2=C(C1C1=CC=CC=C1)C=C(C=C2)NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C | C28H30N2O4S2
